### PR TITLE
feat: show an equivalence between bitvectors and `Fin w -> Bool`

### PR DESCRIPTION
**Pull request by alexkeizer**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/BitVec/Defs.lean [hunk 1]
```diff
@@ -140,4 +140,14 @@ def toLEList (x : BitVec w) : List Bool :=
 def toBEList (x : BitVec w) : List Bool :=
   List.ofFn x.getMsb'
 
+/-- Create a bitvector from a function that maps index `i` to the `i`-th least significant bit -/
+def ofLEFn {w} (f : Fin w → Bool) : BitVec w :=
+  match w with
+  | 0   => .nil
+  | w+1 => .concat (ofLEFn <| Fin.tail f) (f ⟨0, Nat.succ_pos w⟩)
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Defs.lean:147]: I would expect this to work:
```suggestion
  | w+1 => .concat (ofLEFn <| Fin.tail f) (f 0)
```

File: Mathlib/Data/BitVec/Equiv.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+      simp only [Bool.toNat_eq_bit_zero, Nat.mul_two_eq_bit, Nat.land_bit, Bool.false_and,
+        Nat.and_zero, Nat.bit_eq_zero, and_self]
+
+@[simp]
+theorem ofLEFn_getLsb' (x : BitVec w) : ofLEFn (x.getLsb') = x := by
+  simp [← coe_symm_finFunctionEquivAux_eq_ofLEFn, ← coe_finFunctionEquivAux_eq_getLsb']
+
+@[simp]
+theorem getLsb'_ofLEFn (f : Fin w → Bool) : getLsb' (ofLEFn f) = f := by
+  simp [← coe_symm_finFunctionEquivAux_eq_ofLEFn, ← coe_finFunctionEquivAux_eq_getLsb']
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Equiv.lean:83]: Aren't these trivial to prove by induction on `w`, without invoking the above?

File: Mathlib/Data/BitVec/Equiv.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+/-!
+This file shows various equivalences of bitvectors.
+-/
+
+namespace Std.BitVec
+
+variable {w : ℕ}
+
+/-- Equivalence between `BitVec w` and `Fin (2 ^ w)` -/
+def finEquiv : BitVec w ≃ Fin (2 ^ w) where
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Equiv.lean:19]:
```suggestion
@[simps]
def finEquiv : BitVec w ≃ Fin (2 ^ w) where
```

File: Mathlib/Data/BitVec/Defs.lean [hunk 4]
```diff
@@ -140,4 +140,14 @@ def toLEList (x : BitVec w) : List Bool :=
 def toBEList (x : BitVec w) : List Bool :=
   List.ofFn x.getMsb'
 
+/-- Create a bitvector from a function that maps index `i` to the `i`-th least significant bit -/
+def ofLEFn {w} (f : Fin w → Bool) : BitVec w :=
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Defs.lean:144]: Do you think it makes more sense to implement this by taking the bitwise or of `bif f i then 1 else 0 <<< i` using `multiset.fold` or similar?
If nothing else, it would be nice to prove that those are equal

File: Mathlib/Data/BitVec/Defs.lean (hunk 1 above)
Comment (alexkeizer) [reply Mathlib/Data/BitVec/Defs.lean:147]: It does!

File: Mathlib/Data/BitVec/Equiv.lean (hunk 2 above)
Comment (alexkeizer) [reply Mathlib/Data/BitVec/Equiv.lean:84]: We would need to do induction on `x`, or at the least, have the result `concat (x >>> 1 |>.truncate n) x.lsb`, but once we do have that I do agree it would be cleaner to just prove it directly.

File: Mathlib/Data/BitVec/Defs.lean (hunk 4 above)
Comment (alexkeizer) [reply Mathlib/Data/BitVec/Defs.lean:144]: I considered this, it might be faster since there are then less data-dependencies, but it does complicate proofs.
In particular, we might want to upstream `ofLEFn` to Std at some point, so I would prefer not to rely to much on Mathlib-specific APIs.

For posterity: the following is an alternative def of `ofLEFn` that would work.
```lean
List.finRange w
    |>.map (fun i =>
        shiftLeftZeroExtend (ofBool (f i)) i.val |>.zeroExtend' (Nat.add_comm _ _ ▸ i.prop)
      )
    |>.foldr (· ||| ·) 0#_
```
